US07608627B2
To a heterogeneous solution of potassium ethoxide (6.56 g, 77.9 mmol) in diethyl ether (55 mL), was slowly added diethyl oxalate (10.6 mL, 77.9 mmol). A slight exotherm resulted. After stirring 5 min, a homogeneous yellow solution resulted, but after 10 min, a heterogeneous yellow slurry was observed. Addition of 2-chloro-4-methyl-3-nitropyridine (13.45 g, 77.9 mmol) as a solid, with a diethyl ether rinse (23 mL), resulted in a dark violet solution with a dark precipitate. The mixture was stirred at room temperature overnight (21 h). The solid precipitate was filtered, rinsed thoroughly with diethyl ether, and air-dried to give potassium (1Z)-1-(2-chloro-3-nitropyridin-4-yl)-3-ethoxy-3-oxoprop-1-en-2-olate (19.8 g, 63.6 mmol, yield 81%) as an orange solid. The crude product was used directly without further purification or identification.

reactant | potassium ethoxide | 77.9 mmol, 6.56 g | [O-]CC.[K+]
reactant | diethyl oxalate | 77.9 mmol, 10.6 mL | C(C(=O)OCC)(=O)OCC | C6H10O4
reactant | 2-chloro-4-methyl-3-nitropyridine | 77.9 mmol, 13.45 g | ClC1=NC=CC(=C1[N+](=O)[O-])C | C6H5ClN2O2
solvent | diethyl ether | 55 mL | C(C)OCC | C4H10O
product | potassium (1Z)-1-(2-chloro-3-nitropyridin-4-yl)-3-ethoxy-3-oxoprop-1-en-2-olate | 63.6 mmol, 19.8 g, yield 81% | ClC1=NC=CC(=C1[N+](=O)[O-])\C=C(\C(=O)OCC)/[O-].[K+] | InChI=1S/C10H9ClN2O5.K/c1-2-18-10(15)7(14)5-6-3-4-12-9(11)8(6)13(16)17;/h3-5,14H,2H2,1H3;/q;+1/p-1/b7-5-;
